US07018997B2
Step 2: Preparation of Ethyl 5,6,7,8-tetrahydropyrazolo[5,1-b][1,3]benzoxazole-2-carboxylate:
A mixture of ethyl-5-[(2-oxocyclohexyl)oxy]-1H-pyrazole-3-carboxylate (127.6 mg, 0.5 mmol) and methane sulfonic acid (95 mg) in 5 ml of acetic acid and toluene (50 ml) was refluxed for 18 hours using a Dean-Stark trap to remove water. The reaction mixture was allowed to cool to room temperature. The reaction mixture was filtered. The filtrate was concentrated to an oil. The residue was dissolved in ethyl acetate and aqueous bicarbonate solution. The organic layer was washed with water and dried over MgSO4. After removal of the ethyl acetate, the residue was purified by silica gel chromatography eluting with 1:1 ethyl acetate/hexane to give 69.7 mg (59%) of the desired product as white solid. Mp; 55–57° C.; Electrospray-MS m/z 235.0 (M+H)+

reactant | ethyl-5-[(2-oxocyclohexyl)oxy]-1H-pyrazole-3-carboxylate | 0.5 mmol, 127.6 mg | C(C)OC(=O)C1=NNC(=C1)OC1C(CCCC1)=O | C12H16N2O4
reactant | methane sulfonic acid | 95 mg | CS(=O)(=O)O | CH4O3S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5,6,7,8-tetrahydropyrazolo[5,1-b][1,3]benzoxazole-2-carboxylate | 69.7 mg, 59% | N1=C(C=C2OC3=C(N21)CCCC3)C(=O)OCC | C12H14N2O3
